US09056873B2
Step A: 6-Bromo-2,3-dihydro-1H-pyrrolizin-1-one
A mixture of 2,3-dihydro-1H-pyrrolizin-1-one (300 mg, 2.48 mmol) in THF (20 mL) was cooled to −10° C. in a brine bath. N-Bromosuccinimide (441 mg, 2.48 mmol) in THF (5 mL) was added dropwise, and the reaction mixture was stirred at −10° C. for 1 hour. The reaction was subsequently quenched with water (100 mL) and extracted with ethyl acetate (2×100 mL). The organic layers were combined and dried and to give the title compound, which was used without further purification (520 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.02-3.05 (m, 2H), 4.17-4.20 (m, 2H), 6.58 (d, J=4.40 Hz, 1H), 6.67 (d, J=3.90 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C7H6BrNO, 200. found, 200.

reactant | 2,3-dihydro-1H-pyrrolizin-1-one | 2.48 mmol, 300 mg | C1(CCN2C=CC=C12)=O | C7H7NO
reactant | N-Bromosuccinimide | 2.48 mmol, 441 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-Bromo-2,3-dihydro-1H-pyrrolizin-1-one | BrC1=CN2CCC(C2=C1)=O | C7H6BrNO
